US09120749B2
1-(6-Bromo-4-chloroquinolin-3-yl)-3-methylbutan-1-one
1-(6-Bromo-4-hydroxyquinolin-3-yl)-3-methylbutan-1-one (300 mg, 0.970 mmol) was added to phosphoryl chloride (9.7 mL) and the reaction was stirred at 85° C. for 1 h. After this time the reaction mixture was cooled to room temperature and slowly poured into a 2:1 solution of satd. aq. sodium bicarbonate/ethyl acetate that was cooled to 0° C. The organic layer was separated and was washed with satd. aq. sodium bicarbonate, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to afford the desired product (309 mg, 98%) as a yellow oil: 1H NMR (500 MHz, CDCl3) δ 8.86 (s, 1H), 8.51 (d, J=2.0 Hz, 1H), 8.01 (d, J=8.9 Hz, 1H), 7.91 (dd, J=8.9, 2.0 Hz, 1H), 2.96 (d, J=6.9 Hz, 2H), 2.39-2.23 (m, 1H), 1.03 (d, J=6.7 Hz, 6H).

reactant | 1-(6-Bromo-4-hydroxyquinolin-3-yl)-3-methylbutan-1-one | 0.970 mmol, 300 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC(C)C)=O)O | C14H14BrNO2
reactant | phosphoryl chloride | 9.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate ethyl acetate | C([O-])(O)=O.[Na+].C(C)(=O)OCC
product | 1-(6-Bromo-4-chloroquinolin-3-yl)-3-methylbutan-1-one | 309 mg, 98% | BrC=1C=C2C(=C(C=NC2=CC1)C(CC(C)C)=O)Cl | C14H13BrClNO
